US07488755B2
Cyclopropylmethyl 2-(R)-amino-3-hydroxypropanoate hydrochloride
Cyclopropylcarbinol (15 ml) is cooled to 0° C. and acetyl chloride (1.37 ml) is added. After being subjected to agitation for 10 minutes at 0° C., D-serine (750 mg) is added and the solution is brought to reflux for 2 hours. The reaction mixture is concentrated, recovered with a potassium carbonate saturated solution and extracted with ethyl acetate. The organic phase is dried on MgSO4, filtered and concentrated. The product is recovered in a minimum of methanol and a hydrochloric acid solution 1N is added in ether. The solvent is vacuum evaporated to obtain the desired product as a brown solid (250 mg). Melting point: 112-118° C.

reactant | Cyclopropylcarbinol | 15 ml | C1(CC1)CO | C4H8O
reactant | acetyl chloride | 1.37 ml | C(C)(=O)Cl | C2H3ClO
reactant | D-serine | 750 mg | N[C@H](CO)C(=O)O | C3H7NO3
product | Cyclopropylmethyl 2-(R)-amino-3-hydroxypropanoate hydrochloride | 250 mg | Cl.N[C@@H](C(=O)OCC1CC1)CO | InChI=1S/C7H13NO3.ClH/c8-6(3-9)7(10)11-4-5-1-2-5;/h5-6,9H,1-4,8H2;1H/t6-;/m1./s1
